US08802850B2
(1R,2S)-2-(3,4-Difluorophenyl)cyclopropanamine
A solution of (1R,2R)-2-(3,4-difluorophenyl)cyclopropanecarboxylic acid (8.0 g, 40.40 mmol, 1.00 equiv.), diphenylphosphoryl azide (11.2 g, 40.73 mmol, 1.00 equiv.), triethylamine (6.2 g, 61.39 mmol, 1.50 equiv.) in toluene (60 mL) was heated at reflux for about 1 hour and then refluxing 6N hydrogen chloride was added. The mixture was kept at reflux for 16 hours, and then cooled to ambient temperature. The resulting mixture was concentrated in vacuo, and the resulting residue was dissolved in water/ether (1:1) 200 mL). Following standard extractive workup with ether (3×100 mL), the resulting residue was purified by silica gel column chromatography (ethyl acetate/petroleum ether (1:4˜1:0)) to give the title product as a light-brown solid (6.2 g; yield=91%). 1H NMR (300 MHz, CDCl3) δ: 6.98-7.07 (m, 1H), 6.72-6.81 (m, 2H), 2.40 (m, 1H), 1.82-1.87 (m, 1H), 1.05-1.11 (m, 1H), 0.85-0.96 (m, 1H).

reactant | (1R,2R)-2-(3,4-difluorophenyl)cyclopropanecarboxylic acid | 40.40 mmol, 8.0 g, 1.00 equiv. | FC=1C=C(C=CC1F)[C@H]1[C@@H](C1)C(=O)O | C10H8F2O2
reactant | diphenylphosphoryl azide | 40.73 mmol, 11.2 g, 1.00 equiv. | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 61.39 mmol, 6.2 g, 1.50 equiv. | C(C)N(CC)CC | C6H15N
reactant | hydrogen chloride | 6N | Cl | ClH
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | (1R,2S)-2-(3,4-Difluorophenyl)cyclopropanamine | 6.2 g, yield=91% | FC=1C=C(C=CC1F)[C@H]1[C@@H](C1)N | C9H9F2N
